US07652049B2
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one (975 mg, 1.633 mmol) in DMSO (16 mL) were added bis(pinacolato)diboron (1.24 g, 4.899 mmol), [1,1′-Bis(diphenylphosphino)-ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (133 mg, 0.1633 mmol), and KOAc (320 mg, 3.266 mmol). The mixture was degassed with N2, and then heated at 80° C. for 16 hours. The reaction was then cooled to room temperature, diluted with EtOAc (200 mL), and washed with saturated NaHCO3 and brine (80 mL each). The organic layer was dried over Na2SO4, filtered through a plug of silica, and concentrated. Purification of the residue by reverse-phase chromatography (C-18, 10 to 95% MeCN/water with 0.1% TFAA) afforded (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-3-[2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)benzyl]-1,3-oxazolidin-2-one. LCMS=598.1 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.98 (d, J=7.8 Hz, 1H), 7.88 (s, 1H), 7.78 (s, 2H), 7.67 (s, 1H), 7.57 (d, J=7.8 Hz, 1H), 5.68 (d, J=7.5 Hz, 1H), 5.01 (d, J=15.6 Hz, 1H), 4.76 (d, J=15.5 Hz, 1H), 3.98-3.93 (m, 1H), 1.35 (d, J=6.9 Hz, 12H), 0.77 (d, J=6.7 Hz, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | 1.633 mmol, 975 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)I)C)(F)F | C20H13F9INO2
reactant | bis(pinacolato)diboron | 4.899 mmol, 1.24 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.1633 mmol, 133 mg | ClCCl | CH2Cl2
reactant | KOAc | 3.266 mmol, 320 mg | CC(=O)[O-].[K+]
solvent | DMSO | 16 mL | CS(=O)C | C2H6OS
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-3-[2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)benzyl]-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C)C)(F)F | C26H25BF9NO4
